US04129591
To a mixture of 26.6 g of 8-amino-1,3,5-naphthalenetrisulfonic acid in 25 ml of water is added 12 ml of 5N sodium hydroxide. This solution is added to 125 ml of ethanol and stirred for 30 minutes. The resulting solid is recovered by filtration, washed with 50 ml of 80% ethanol followed by ethanol and ether and dried at 110° C. giving 8-amino-1,3,5-naphthalenetrisulfonic acid trisodium salt.

reactant | 8-amino-1,3,5-naphthalenetrisulfonic acid | 26.6 g | NC1=CC=C(C=2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C10H9NO9S3
reactant | sodium hydroxide | 5N, 12 ml | [OH-].[Na+]
reactant | ethanol | 125 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 8-amino-1,3,5-naphthalenetrisulfonic acid trisodium salt | [Na+].[Na+].[Na+].NC1=CC=C(C=2C=C(C=C(C12)S(=O)(=O)[O-])S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C10H9NO9S3.3Na/c11-7-1-2-8(22(15,16)17)6-3-5(21(12,13)14)4-9(10(6)7)23(18,19)20;;;/h1-4H,11H2,(H,12,13,14)(H,15,16,17)(H,18,19,20);;;/q;3*+1/p-3
